US08110575B2
Step 2: 6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-yl-amino)pyrimidine-4-carboxylic acid-hydrochloride
5.0 mL (5.0 mmol) of a 1M aqueous lithium hydroxide solution were added to 1.80 g (4.48 mmol) ethyl 6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)pyrimidine-4-carboxylate in 5.0 mL ethanol and the mixture was stirred overnight at RT. The reaction mixture was acidified with 1.3 mL of a 4M aqueous HCl solution and the precipitate formed was suction filtered and dried.

reactant | lithium hydroxide | 1M | [OH-].[Li+]
reactant | ethyl 6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)pyrimidine-4-carboxylate | 4.48 mmol, 1.80 g | O=C1C2(C=3C(=NC=CC3)N1)CC1=CC=C(C=C1C2)NC2=CC(=NC=N2)C(=O)OCC | C22H19N5O3
reactant | HCl | 4M | Cl | ClH
solvent | ethanol | 5.0 mL | C(C)O | C2H6O
product | 6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-yl-amino)pyrimidine-4-carboxylic acid-hydrochloride | Cl.O=C1C2(C=3C(=NC=CC3)N1)CC1=CC=C(C=C1C2)NC2=CC(=NC=N2)C(=O)O | InChI=1S/C20H15N5O3.ClH/c26-18(27)15-7-16(23-10-22-15)24-13-4-3-11-8-20(9-12(11)6-13)14-2-1-5-21-17(14)25-19(20)28;/h1-7,10H,8-9H2,(H,26,27)(H,21,25,28)(H,22,23,24);1H
